US08486967B2
a) 4-[1-(2,4-Dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-ylamino]-piperidine-1-carboxylic acid tert-butyl ester
Prepared in analogy to example 1 step h) starting from 4-oxo-piperidine-1-carboxylic acid tert-butyl ester and 1-(2,4-dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-ylamine. The title compound was obtained as a light yellow solid (yield=34%).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-(2,4-dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-ylamine | ClC1=C(C=CC(=C1)Cl)N1N=C(N=C1C)N | C9H8Cl2N4
product | 4-[1-(2,4-Dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NN(C(=N1)C)C1=C(C=C(C=C1)Cl)Cl | C19H25Cl2N5O2
